US04762839
5,6-Dichloro-1-methylcarbamoylisatin (9.6 g) is suspended in tetrahydrofuran (100 ml) and thereto are added thiourea (3.0 g) and triethylamine (5.6 ml), and the mixture is stirred at room temperature for 5 hours. The resulting precipitates are taken by filtration to give 6,7-dichloro-3-methyl-4-hydroxy-4-thioureidocarbonyl-2-oxo-1,2,3,4-tetrahydroquinazoline (4.1 g). M.p. 225-228° C.

reactant | 5,6-Dichloro-1-methylcarbamoylisatin | 9.6 g | ClC=1C=C2C(C(N(C2=CC1Cl)C(NC)=O)=O)=O | C10H6Cl2N2O3
reactant | thiourea | 3.0 g | NC(=S)N | CH4N2S
reactant | triethylamine | 5.6 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 6,7-dichloro-3-methyl-4-hydroxy-4-thioureidocarbonyl-2-oxo-1,2,3,4-tetrahydroquinazoline | 4.1 g | ClC=1C=C2C(N(C(NC2=CC1Cl)=O)C)(C(=O)NC(=S)N)O | C11H10Cl2N4O3S
